US05693829
A mixture of 49.8 g (0.30 mol) of 2-tert-butyl-4-methylphenol, 48.9 g (0.33 mol) of 50% aqueous glyoxylic acid and 0.15 g (0.79 retool) of p-toluenesulfonic acid monohydrate in 90 ml of 1,2-dichloroethane is refluxed under nitrogen for 3.5 hours on a water separator. The reaction mixture is afterwards cooled to +5° C and the precipitate is isolated by filtration and washed with cold 1,2-dichloroethane. The filter residue is dried under a high vacuum at room temperature, affording 54.0 g (82%) of 7-tert-butyl-3-hydroxy-5-methyl-3H-benzofuran-2-one, m.p. 152-160° C (compound (102), Table 1).

reactant | 2-tert-butyl-4-methylphenol | 0.30 mol, 49.8 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | glyoxylic acid | 0.33 mol, 48.9 g | C(C=O)(=O)O | C2H2O3
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 90 ml | ClCCCl | C2H4Cl2
catalyst | p-toluenesulfonic acid monohydrate | 0.15 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 7-tert-butyl-3-hydroxy-5-methyl-3H-benzofuran-2-one | 54.0 g, 82% | C(C)(C)(C)C1=CC(=CC=2C(C(OC21)=O)O)C | C13H16O3
